US06002002
N-n-hexyl-N'-(2-hydroxy-3-piperidino-propoxy)-urea
O-(2-hydroxy-3-piperidino-propyl)-hydroxylamine (1,85 g, 0,011 mol) was dissolved in 30 ml chloroform and 1,17 ml (0,011 mol) n-hexyl-isocyanate was added while stirring. After 3 hours the reaction mixture was evaporated and purified by column chromatography. The oil thus obtained crystallizes slowly in refrigerator and rubbing the crystals in petroleum ether a white material was obtained.

reactant | O-(2-hydroxy-3-piperidino-propyl)-hydroxylamine | 0,011 mol, 1,85 g | OC(CON)CN1CCCCC1 | C8H18N2O2
reactant | n-hexyl-isocyanate | 0,011 mol, 1,17 ml | C(CCCCC)N=C=O | C7H13NO
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-n-hexyl-N'-(2-hydroxy-3-piperidino-propoxy)-urea | C(CCCCC)NC(=O)NOCC(CN1CCCCC1)O | C15H31N3O3
